US08461158B2
A solution of 190 mg (0.6 mmol) of benzyl 4-(chlorosulfonyl)-1-piperidinecarboxylate in 10 mL THF was treated with a 10-fold excess of 40% aq. dimethylamine and the mixture was stirred at room temperature for 2 hrs. The THF was removed under vacuum. The residue was diluted with water, extracted with CH2Cl2, and dried. Chromatography on alumina, eluting with CH2Cl2, gave 175 mg (89% yield) of benzyl 4-[(dimethylamino)sulfonyl]-1-piperidinecarboxylate as an oil: 1H NMR (CDCl3) δ 7.40-7.30 (m, 5H), 5.13 (s, 2H), 4.31 (m, 2H), 3.10 (tt, J=12.0, 3.7 Hz, 1H), 2.92 (s, 6H), 2.85-2.75 (m, 2H), 2.04 (br d, J=13.7 Hz, 2H), 1.76 (dq, J=12.6, 4.5 Hz, 2H).

reactant | benzyl 4-(chlorosulfonyl)-1-piperidinecarboxylate | 0.6 mmol, 190 mg | ClS(=O)(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H16ClNO4S
reactant | dimethylamine | CNC | C2H7N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | benzyl 4-[(dimethylamino)sulfonyl]-1-piperidinecarboxylate | 175 mg, 89% yield | CN(S(=O)(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)C | C15H22N2O4S
